US08791102B2
A microwave vessel was charged with 4′-bromoacetoanilide (1.19 g, 5.56 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.23 mL, 1.1 mmol), copper(I) chloride (0.22 g, 2.2 mmol), cesium carbonate (5.42 g, 16.7 mmol), 4-fluoro-2-methylphenol (0.70 g, 5.6 mmol), and N-methyl-2-pyrrolidone (5 mL). The reaction mixture was heated at 200° C. in a microwave oven for 20 minutes. The reaction mixture then was cooled to ambient temperature and diluted with deionized water (20 mL). The dilution was extracted with ethyl acetate (20 mL) and the extract combined with saturated sodium bicarbonate (aq., 100 mL). The mixture was washed with brine (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The residue was diluted with concentrated hydrochloric acid (15 mL) and the dilution was heated at 100° C. for 2 hours. The reaction mixture was cooled to ambient temperature and diluted with 4N sodium hydroxide until basic. The dilution was extracted with methylene chloride (30 mL) and the extract was washed with brine (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated. Product was purified from the residue by reverse phase HPLC to give 4-(4-fluoro-2-methylphenoxy)aniline (0.33 g, 1.5 mmol, 27% yield) as off-white solid. MS (EI) for C13H12FNO. found 218.1 (MH+).

reactant | 4′-bromoacetoanilide | 5.56 mmol, 1.19 g | BrC1=CC=C(NC(C)=O)C=C1 | C8H8BrNO
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 1.1 mmol, 0.23 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 16.7 mmol, 5.42 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluoro-2-methylphenol | 5.6 mmol, 0.70 g | FC1=CC(=C(C=C1)O)C | C7H7FO
solvent | water | 20 mL | O | H2O
catalyst | copper(I) chloride | 2.2 mmol, 0.22 g | [Cu]Cl
solvent | N-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(4-fluoro-2-methylphenoxy)aniline | 1.5 mmol, 0.33 g, 27% yield | FC1=CC(=C(OC2=CC=C(N)C=C2)C=C1)C | C13H12FNO
